US04307098
To 290 mg of NaOH in 15 ml of water, cooled in an ice bath, is added 1.0 g (3.56 mol) of 5-cyano-1-(4-trifluoromethylphenyl)uracil. Then 15 ml of dichloromethane is added, followed by 0.725 ml of trichloromethanesulphenyl chloride in 1.5 ml of dichloromethane. The mixture is stirred for approximately 2 hours at 5°. Then dichloromethane and ice cold water are added and the layers separated. The organic phase is washed with ice cold water, dried over MgSO4 and evaporated. The product is taken up with ether, filtered and washed again with ether to yield 5-cyano-3-trichloromethanesulphenyl-1-(4-trifluoromethylphenyl)uracil, m.p. 167°-168.5°.

reactant | NaOH | 290 mg | [OH-].[Na+]
reactant | 5-cyano-1-(4-trifluoromethylphenyl)uracil | 3.56 mol, 1.0 g | C(#N)C=1C(NC(N(C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C12H6F3N3O2
reactant | trichloromethanesulphenyl chloride | 0.725 ml | ClC(SCl)(Cl)Cl | CCl4S
solvent | water | 15 ml | O | H2O
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 5-cyano-3-trichloromethanesulphenyl-1-(4-trifluoromethylphenyl)uracil | C(#N)C=1C(N(C(N(C1)C1=CC=C(C=C1)C(F)(F)F)=O)SC(Cl)(Cl)Cl)=O | C13H5Cl3F3N3O2S
